US08217029B2
119.i) [1-(6-Methoxy-[1,5]-naphthyridin-4-yl)-piperidin-4-yl]-carbamic acid benzyl ester
According to procedure F and starting from 8-bromo-2-methoxy-[1,5]naphthyridine and piperidin-4-yl-carbamic acid benzyl ester the title compound was isolated as a pale yellow foam (806 mg, 60%).

reactant | 8-bromo-2-methoxy-[1,5]naphthyridine | BrC=1C=CN=C2C=CC(=NC12)OC | C9H7BrN2O
reactant | piperidin-4-yl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1CCNCC1)=O | C13H18N2O2
product | [1-(6-Methoxy-[1,5]-naphthyridin-4-yl)-piperidin-4-yl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1CCN(CC1)C1=CC=NC2=CC=C(N=C12)OC)=O | C22H24N4O3
